Square Wave 820ms (Steady)

Vsource 2 0 PULSE(0 5 0 1n 1n 410m 820m)
R1 1 0 820
C1 2 1 1u

.tran 1m 3s

.control
    run
    wrdata sq3_steady.txt v(1) v(2)
.endc

.end
